US09079860B2
Benzyl malonic acid (19.4 g, 0.10 mol) was dissolved in 180 mL of MeOH. The mixture was cooled in an ice-bath and to it was added thionyl chloride dropwise over 30 min (7.3 mL, 0.10 mol). The mixture was stirred in the ice-bath for 30 min and then at RT for 30 min under N2. The solvent was removed, and the residue was dissolved in aqueous NaHCO3. The basic solution was extracted with EtOAc to remove the bis-ester which was discarded. The aqueous solution was then acidified with aqueous HCl to pH 5 and extracted with EtOAc. The EtOAc extract was washed with brine, dried over Na2SO4, and concentrated to give 7.2 g of 2-benzyl-3-methoxy-3-oxopropanoic acid (35%). MS 209.24 (M+H)+.

reactant | Benzyl malonic acid | 0.10 mol, 19.4 g | C(C1=CC=CC=C1)C(C(=O)O)C(=O)O | C10H10O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 180 mL | CO | CH4O
product | 2-benzyl-3-methoxy-3-oxopropanoic acid | 7.2 g, 35% | C(C1=CC=CC=C1)C(C(=O)O)C(=O)OC | C11H12O4
